US04217306
Substitution of an equivalent quantity of the above acetonitrile for α-[4-biphenylyl)-α-[2-(diisopropylamino)ethyl]acetonitrile called for in Example 2, Method B, affords α,α-bis[2-(diisopropylamino)ethyl]-α-(1-naphthyl)acetonitrile, as an oil.

reactant | α-[4-biphenylyl)-α-[2-(diisopropylamino)ethyl]acetonitrile | C1(=CC=C(C=C1)C(C#N)CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C22H28N2
solvent | acetonitrile | C(C)#N | C2H3N
product | α,α-bis[2-(diisopropylamino)ethyl]-α-(1-naphthyl)acetonitrile | C(C)(C)N(CCC(C#N)(C1=CC=CC2=CC=CC=C12)CCN(C(C)C)C(C)C)C(C)C | C28H43N3
